US06936632B2
Magnesium turnings (for Grignard, 6.4 g, 0.266 mol) are covered with a layer of 20 ml of a solution of 4-fluorobenzyl bromide (50 g, 0.265 mol) in abs. (absolute) diethyl ether (250 ml) in a 500 ml three-necked flask and the mixture is briefly heated until the reaction starts. The remaining volume of 4-fluorobenzyl bromide is added dropwise in the course of 30 min and at the same time the mixture is kept at a temperature of 40° C. for a further 2 h in an oil bath. A solution of 4-chlorobutyronitrile (13.6 g, 0.132 mol) in diethyl ether (50 ml) is added dropwise in the course of 30 min to the still warm, freshly prepared Gringnard solution. The largest part of the ether (200 ml) is distilled off over a bridge and replaced by abs. toluene (250 ml). Diethyl ether is driven off until a boiling temperature of 95° C. is achieved in the bottom. The mixture is stirred at this temperature for a further 2 h and then allowed to stand at RT overnight. The organic phase is transferred to a separating funnel and hydrolysed and extracted with 10% strength HCl (3×100 ml each). The toluene phase is discarded, and the HCl-acidic aqueous phase is again washed with toluene (100 ml) and then maintained at pH 10 using conc. NaOH (32% strength). The pyrroline base depositing is taken up with diethyl ether (100 ml) in the separating funnel. After separating the ether phase, the mixture is again extracted with ether (2×50 ml), and the combined ether phases are dried over K2CO3 sicc. and concentrated. 8.8 g of 2-(4-fluorobenzyl)-1-pyrroline (37.8% based on chloronitrile) are obtained.

reactant | Magnesium | 0.266 mol, 6.4 g | [Mg] | Mg
reactant | 4-fluorobenzyl bromide | 0.265 mol, 50 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 4-chlorobutyronitrile | 0.132 mol, 13.6 g | ClCCCC#N | C4H6ClN
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 2-(4-fluorobenzyl)-1-pyrroline | 8.8 g, 37.8% | FC1=CC=C(CC2=NCCC2)C=C1 | C11H12FN
